US07470680B2
6-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine.
To 6-chloro-1H-pyrrolo[2,3-b]pyridine (1.00 g, 6.55 mmol) in THF (1 mL) was added NaH (60%, 0.315 g, 7.86 mmoL) at 0° C. in several portions. The resulting mixture was stirred for 1 hr, followed by addition of triisopropylsilyl chloride (1.67 mL, 7.86 mmol) in neat at 0° C. The mixture was continued stirring at 0° C. under N2 for 2 hr, quenched with H2O (40 mL), and extracted with Et2O (100 mL). After separation, the organic phase was washed with brine (30 mL), dried (MgSO4), concentrated on rotary vacuo, and purified on Biotage Flash Collector eluting with 15˜30% EtOAc/Hexanes (600 mL) to afford the expected product, 6-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (1.51 g, 75%). 1H-NMR (400 MHz, CHLOROFORM-D) δ ppm 1.09-1.13 (m, 18 H) 1.80 (dt, J=14.92, 7.52 Hz, 3 H) 6.52 (d, J=3.53 Hz, 1 H) 7.02 (d, J=8.06 Hz, 1 H) 7.25 (d, J=3.53 Hz, 1 H) 7.77 (d, J=8.31 Hz, 1 H); Mass spec 309.19 Calc for C16H25ClN2Si 308.15.

reactant | 6-chloro-1H-pyrrolo[2,3-b]pyridine | 6.55 mmol, 1.00 g | ClC1=CC=C2C(=N1)NC=C2 | C7H5ClN2
reactant | NaH | 0.315 g | [H-].[Na+]
reactant | triisopropylsilyl chloride | 7.86 mmol, 1.67 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 6-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 1.51 g, 75% | ClC1=CC=C2C(=N1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25ClN2Si
